US07435731B2
Step 2. Preparation of (2-chlorophenyl)-(4,6-dichloro-2-methylsulfanylpyrimidin-5-yl)-methanone
To a solution of (2-chlorophenyl)-(4,6-dichloro-2-methylsulfanylpyrimidin-5-yl)-methanol (8.6 g, 25.6 mmol) in toluene (300 mL) was added manganese (IV) oxide (Aldrich) (22.3 g, 10 eq), and the resulting mixture was heated to reflux with stirring for a total of 5 hours. The reaction was cooled to room temperature and then filtered through a 3.5 cm pad of Celite and the filtrate was concentrated to give 8.84 g of a crude product. Purification by Flash Column Chromatography on Silica Gel eluting with a gradient starting with pure hexanes and progressing to 2% ethyl acetate in hexanes and finally 5% ethyl acetate in hexanes gave the title compound as an off-white powder (1.388 g, (M+H)+=333).

reactant | (2-chlorophenyl)-(4,6-dichloro-2-methylsulfanylpyrimidin-5-yl)-methanol | 25.6 mmol, 8.6 g | ClC1=C(C=CC=C1)C(O)C=1C(=NC(=NC1Cl)SC)Cl | C12H9Cl3N2OS
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese (IV) oxide | 22.3 g, 10 eq | [O-2].[Mn+4].[O-2]
product | (2-chlorophenyl)-(4,6-dichloro-2-methylsulfanylpyrimidin-5-yl)-methanone | 1.388 g | ClC1=C(C=CC=C1)C(=O)C=1C(=NC(=NC1Cl)SC)Cl | C12H7Cl3N2OS
